US08426587B2
Procedure G: Preparation of (E)-4-(4-Ammonio-2-fluorobut-2-enyloxy)benzoate hydrochloride
A stirred solution of (E)-Methyl 4-(4-amino-2-fluorobut-2-enyloxy)benzoate hydrochloride (0.050 g, 0.18 mmol) in ethereal HCl solution (1 M; 3 mL) was stirred at reflux for 20 hours. The reaction mixture was allowed to cool to RT and the volatiles were removed under reduced pressure to afford the title compound (0.040 g, 98%) as a fine white powder; m.p.=256-257° C.; 1H-NMR (200 MHz, D2O): δppm: 3.77 (2H, d, J 8.4 Hz), 4.91 (2H, d, J 18.8 Hz), 5.65 (1H, dt, J 18.6, 8.0 Hz), 7.08 (2H, d, J 8.4 Hz), 8.00 (2H, d, J 8.4 Hz).

reactant | (E)-Methyl 4-(4-amino-2-fluorobut-2-enyloxy)benzoate hydrochloride | 0.18 mmol, 0.050 g | Cl.NC/C=C(\COC1=CC=C(C(=O)OC)C=C1)/F
solvent | HCl | 1 M, 3 mL | Cl | ClH
product | (E)-4-(4-Ammonio-2-fluorobut-2-enyloxy)benzoate hydrochloride | 0.040 g, 98% | Cl.[NH3+]C/C=C(\COC1=CC=C(C(=O)[O-])C=C1)/F | InChI=1S/C11H12FNO3.ClH/c12-9(5-6-13)7-16-10-3-1-8(2-4-10)11(14)15;/h1-5H,6-7,13H2,(H,14,15);1H/b9-5+;
